US07893088B2
Di-tert-butyldicarbonate (260 mg, 1.2 mmol) was added to a solution of (1S, 3S) 3-aminomethylcyclopentanol (100 mg, 1 mmol) in dichloromethane (1.5 ml) and triethylamine (415 μL, 3 mmol) at ˜5° C. The mixture was warmed to ambient temperature then stirred overnight. Water was added, the mixture was diluted with dichloromethane and the organic phase separated and concentrated in vacuo to give (1S, 3R)-(3-hydroxycyclopentylmethyl)carbamic acid tert-butyl ester. Without further purification the residue was dissolved in dichloromethane (2 ml) and triethylamine (182 μL). Methane sulphonyl chloride (102 μL) was added at ˜5° C. and the mixture was heated to ambient temperature and stirred for 3 days. Saturated aqueous NaHCO3 was added, the mixture was diluted with dichloromethane and the organic phase separated and concentrated in vacuo to give methanesulfonic acid (1R,3S)-3-(tert-butoxycarbonylaminomethyl)cyclopentyl ester, which was used in the next step without further purification.

reactant | Di-tert-butyldicarbonate | 1.2 mmol, 260 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (1S, 3S) 3-aminomethylcyclopentanol | 1 mmol, 100 mg | NC[C@@H]1C[C@H](CC1)O | C6H13NO
reactant | triethylamine | 3 mmol, 415 μL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | (1S, 3R)-(3-hydroxycyclopentylmethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@@H]1C[C@@H](CC1)O)=O | C11H21NO3
